US07714009B2
2-Chloro-7-(2-ethyl-1-piperidinyl)-1-methyl-1H-benzimidazole
A mixture of 7-(2-ethyl-1-piperidinyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one (200 mg, 0.77 mmol) and phosphorus oxychloride (3.55 g, 23.1 mol) was refluxed for 12 h with stirring and concentrated to dryness under vacuum. The residue was purified by column chromatography eluting with a 10% acetone/hexanes mixture to afford 192 mg (90%) of the title compound.

reactant | 7-(2-ethyl-1-piperidinyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 0.77 mmol, 200 mg | C(C)C1N(CCCC1)C1=CC=CC2=C1N(C(N2)=O)C | C15H21N3O
reactant | phosphorus oxychloride | 23.1 mol, 3.55 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-7-(2-ethyl-1-piperidinyl)-1-methyl-1H-benzimidazole | 192 mg, 90% | ClC1=NC2=C(N1C)C(=CC=C2)N2C(CCCC2)CC | C15H20ClN3
